US06479497B1
(S)-N-[5-(4-Methylpiperazin-1-yl)-3,4-dihydro-2H-1-benzopyran-3-yl]-2-hydroxy-4-methoxybenzamide
A solution of 4-methoxy-2-acetoxybenzoic acid (232 mg, 1.10 mmol; described in: Schonhofer, F. Ber Deutsch Chem Ges 1951, 84, 13) in thionyl chloride (5 mL) was heated at 55° C. for 30 min. The excess of thionyl chloride was removed in vacuo, and the residue was evaporated with two portions of toluene. The acid chloride was then dissolved in anhydrous methylene chloride (5 mL) and added to a stirred solution of (S)-3-amino-5-(4-methylpiperazin-1-yl)-3,4-dihydro-2H-1-benzopyran (248 mg, 1.00 mmol) and triethylamine (210 μL, 1.50 mmol) in anhydrous methylene chloride (20 mL). The reaction mixture was stirred at room temperature for 2.5 h after which the mixture was washed with a saturated NaHCO3 solution, dried (MgSO4), and the solvent was removed in vacuo. The residue was dissolved in absolute ethanol (20 mL), and conc. NH3 (5 mL) was added. The mixture was stirred overnight. The solvent was removed in vacuo, and the remains was purified by column chromatography on silica (eluent: chloroform/ethanol; 92:8+0.5% conc. NH3) affording 120 mg (33% yield) of the title compound as a white solid: mp sinters>80° C.; [α]21D−92° (c 1.0, chloroform); EIMS (70 eV) m/z (relative intensity) 397 (27, M30 ).

reactant | 4-methoxy-2-acetoxybenzoic acid | 1.10 mmol, 232 mg | COC1=CC(=C(C(=O)O)C=C1)OC(C)=O | C10H10O5
reactant | (S)-3-amino-5-(4-methylpiperazin-1-yl)-3,4-dihydro-2H-1-benzopyran | 1.00 mmol, 248 mg | N[C@@H]1COC2=C(C1)C(=CC=C2)N2CCN(CC2)C | C14H21N3O
reactant | triethylamine | 1.50 mmol, 210 μL | C(C)N(CC)CC | C6H15N
solvent | thionyl chloride | 5 mL | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 20 mL | C(Cl)Cl | CH2Cl2
product | (S)-N-[5-(4-Methylpiperazin-1-yl)-3,4-dihydro-2H-1-benzopyran-3-yl]-2-hydroxy-4-methoxybenzamide | 120 mg, 33% yield | CN1CCN(CC1)C1=CC=CC2=C1C[C@@H](CO2)NC(C2=C(C=C(C=C2)OC)O)=O | C22H27N3O4
